US05064833
C. Preparation of 2-[(4-chloro-2-methylphenyl)amino]-4-(N-methylphenylamino)quinazoline hydrochloride
Substituting 4-chloro-2-[(4-chloro-2-methylphenyl)amino]quinazoline (1.0 g) and N-methylaniline (1.0 g) for the reagents in Example 33C and using analogous conditions and work-up gave the title compound (0.17 g), m.p. 263°-265°, after two recrystallisations from ethanol/diethyl ether.

reactant | 4-chloro-2-[(4-chloro-2-methylphenyl)amino]quinazoline | 1.0 g | ClC1=NC(=NC2=CC=CC=C12)NC1=C(C=C(C=C1)Cl)C | C15H11Cl2N3
reactant | N-methylaniline | 1.0 g | CNC1=CC=CC=C1 | C7H9N
product | 2-[(4-chloro-2-methylphenyl)amino]-4-(N-methylphenylamino)quinazoline hydrochloride | 0.17 g | Cl.ClC1=CC(=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=CC=C1)C | InChI=1S/C22H19ClN4.ClH/c1-15-14-16(23)12-13-19(15)24-22-25-20-11-7-6-10-18(20)21(26-22)27(2)17-8-4-3-5-9-17;/h3-14H,1-2H3,(H,24,25,26);1H
